US08384068B2
1-(4′-Phenylsulfonylphenyl)benzimidazole
To a solution of benzimidazole (11.8 g, 0.10 mol) in DMF (500 ml), is added, at room temperature under nitrogen, sodium hydride (60% in mineral oil, 4.4 g, 0.11 mol), and the mixture is stirred for 10 min. The mixture is admixed with 4-chlorophenyl phenyl sulfone (26.1 g, 0.10 mol) and stirred at 100° C. for 16 h. After again adding sodium hydride (60% in mineral oil, 2.0 g, 0.05 mol) at room temperature, the mixture is stirred at 130° C. for 16 h. After cooling to room temperature, the mixture is added to ice-water. Precipitated product is filtered off and washed with water. Yield: 91%.

reactant | benzimidazole | 0.10 mol, 11.8 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 0.11 mol, 4.4 g | [H-].[Na+]
reactant | 4-chlorophenyl phenyl sulfone | 0.10 mol, 26.1 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C12H9ClO2S
reactant | sodium hydride | 0.05 mol, 2.0 g | [H-].[Na+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 1-(4′-Phenylsulfonylphenyl)benzimidazole | Yield: 91% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)N1C=NC2=C1C=CC=C2 | C19H14N2O2S
